US07750161B2
D3.2. [3-(2-Methyl-pyridin-4-yl)-ureido]-acetic acid
2-Methyl-pyridin-4-ylamine (1.08 g, 10 mmol) is dissolved in dry THF (30 mL) and isocyanatoacetic acid ethyl ester (1.29 g, 10 mmol) is added. The mixture is stirred at r.t. for 15 h. The mixture is evaporated and 6N aq. HCl (20 mL) is added. The mixture is stirred at 50° C. for 6 h, evaporated and the residue purified by reversed phase MPLC to provide the title compound.

reactant | 2-Methyl-pyridin-4-ylamine | 10 mmol, 1.08 g | CC1=NC=CC(=C1)N | C6H8N2
reactant | isocyanatoacetic acid ethyl ester | 10 mmol, 1.29 g | C(C)OC(CN=C=O)=O | C5H7NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [3-(2-Methyl-pyridin-4-yl)-ureido]-acetic acid | CC1=NC=CC(=C1)NC(NCC(=O)O)=O | C9H11N3O3
